US04230707
2-Methyl-10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid, methyl ester
A mixture of 5 g (0.0292 mol) of 3-amino-5-methyl-2-thiophenecarboxylic acid, methyl ester (German Patent 1055007, April 16, 1959) and 5 g (0.0292 mol) of 6-chloro-3-pyridinecarboxylic acid, methyl ester (Alfred Bader Chemical Company) is heated in an oil bath at 180° C. for thirty minutes. The mixture is cooled, dissolved in hot methanol, cooled and 1.2 g of 2-methyl-10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid, methyl ester is collected; mp 215°-216° C. after recrystallization from methanol.

reactant | 3-amino-5-methyl-2-thiophenecarboxylic acid, methyl ester | 0.0292 mol, 5 g | NC1=C(SC(=C1)C)C(=O)OC | C7H9NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid, methyl ester | 0.0292 mol, 5 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
solvent | methanol | CO | CH4O
product | 2-Methyl-10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid, methyl ester | CC1=CC=2N=C3N(C(C2S1)=O)C=C(C=C3)C(=O)OC | C13H10N2O3S
